US08258130B2
To a mixture of 2-iodo-4-trifluoromethyl-aniline (5 g, 17.4 mmol), KOt-Bu (2.05 g, 18.3 mmol) and THF (200 mL) at −78° C., is added allyl bromide (2.21 g, 18.3 mmol). The resulting mixture is warmed to rt and stirred for 18 h. Water is added, and the mixture is extracted with EtOAc. The organic layer is separated, dried (Na2SO4), filtered and concentrated. The residue is chromatographed through silica gel eluting with 0-50% EtOAc in heptane to afford allyl-(2-iodo-4-trifluoromethyl-phenyl)-amine (1.9 g, 33%). MS 328 (M+H); 1H NMR (300 MHz, CDCl3): δ 7.90 (s, 1H), 7.45 (d, 1 H), 5.88-6.02 (m, 1H), 5.33 (d, 1 H), 5.25 (d, 1H), 4.72(broad s, 1H), 3.90 (s, 2H).

reactant | 2-iodo-4-trifluoromethyl-aniline | 17.4 mmol, 5 g | IC1=C(N)C=CC(=C1)C(F)(F)F | C7H5F3IN
reactant | KOt-Bu | 18.3 mmol, 2.05 g | CC(C)(C)[O-].[K+]
reactant | THF | 200 mL | C1CCOC1 | C4H8O
reactant | allyl bromide | 18.3 mmol, 2.21 g | C(C=C)Br | C3H5Br
solvent | Water | O | H2O
product | allyl-(2-iodo-4-trifluoromethyl-phenyl)-amine | 1.9 g, 33% | C(C=C)NC1=C(C=C(C=C1)C(F)(F)F)I | C10H9F3IN
